US06214859B1
Synthesis of 1-(2-Naphthyl)-2-propylaminopentane Hydrochloride (compound No. 3)
Using the same method as stated in Example 1, 1-(2-naphthyl)-2-propylaminopentane was converted to hydrochloride.

reactant | 1-(2-naphthyl)-2-propylaminopentane | C1=C(C=CC2=CC=CC=C12)CC(CCC)NCCC | C18H25N
reactant | hydrochloride | Cl | ClH
product | 1-(2-Naphthyl)-2-propylaminopentane Hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CC(CCC)NCCC | InChI=1S/C18H25N.ClH/c1-3-7-18(19-12-4-2)14-15-10-11-16-8-5-6-9-17(16)13-15;/h5-6,8-11,13,18-19H,3-4,7,12,14H2,1-2H3;1H
